US04518597
6-[5-(4-Cyclohexyl-phenylmercapto)-pentoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 1 from 6-(5-bromopentoxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one and 4-cyclohexyl-thiophenol.

reactant | 6-(5-bromopentoxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one | BrCCCCCOC=1C=CC2=C(C(OC(N2)=O)(C)C)C1 | C15H20BrNO3
reactant | 4-cyclohexyl-thiophenol | C1(CCCCC1)C1=CC=C(C=C1)S | C12H16S
product | 6-[5-(4-Cyclohexyl-phenylmercapto)-pentoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one | C1(CCCCC1)C1=CC=C(C=C1)SCCCCCOC=1C=CC2=C(C(OC(N2)=O)(C)C)C1 | C27H35NO3S
